US06583135B2
Preparation of N-[2-[2-(1,1-Dimethyl-2-propenyl)-1H-indol-3-yl]ethyl]-carbamic Acid Phenylmethyl Ester
To a solution of 2-(1,1-dimethyl-2-propenyl)-1H-indole-3-ethanamine (0.707 g, 3.07 mmol) in dry CH2Cl2 (30 mL) at 0° C. under argon was added NEt3 (0.98 mL, 6.93 mmol) and BnOC(O)Cl (1.10 mL, 7.32 mmol). The reaction was permitted to warm to rt while stirring overnight. It was diluted with CH2Cl2, and extracted with cold H2O. The CH2Cl2 layer was separated. The H2O layer was re-extracted with CH2Cl2. The combined CH2Cl2 extracts were washed with satd aq NaHCO3 and brine, dried, filtered and concentrated to give an oil. This oil was purified by silica chromatography to provide the title compound: TLC Rf=0.34 (CH2Cl2); MS (EI) m/z 362.3, 254, 211, 198, 182. 168, 167, 108, 91, 77, 65, 51; 1H NMR (300 MHz, CDCl3) δ 7.89 (1H), 7.56 (1H), 7.33-7.26 (6H), 7.10 (2H), 6.12 (1H), 5.18-5.12 (2H), 5.12 (2H), 4.87 (1H), 3.47 (2H), 3.07 (2H), 1.53 (6H).

reactant | 2-(1,1-dimethyl-2-propenyl)-1H-indole-3-ethanamine | 3.07 mmol, 0.707 g | CC(C=C)(C)C=1NC2=CC=CC=C2C1CCN | C15H20N2
reactant | NEt3 | 6.93 mmol, 0.98 mL | CCN(CC)CC | C6H15N
reactant | BnOC(O)Cl | 7.32 mmol, 1.10 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-[2-[2-(1,1-Dimethyl-2-propenyl)-1H-indol-3-yl]ethyl]-carbamic Acid Phenylmethyl Ester | C1(=CC=CC=C1)COC(NCCC1=C(NC2=CC=CC=C12)C(C=C)(C)C)=O | C23H26N2O2
